US08124629B2
A 2 L three-neck flask fitted with a drop-wise addition funnel and a mechanical stirrer was charged with 18.63 g (0.466 mol) of sodium hydride (60% suspension in mineral oil) under a stream of argon gas. The sodium hydride was washed twice with 100 mL portions of hexane and once with a 100 mL portion of toluene in order to remove the mineral oil. The reaction flask was then charged with toluene (220 mL) followed by a catalytic amount of methanol (0.5 mL, 12.3 mmol). A mixture of 4-fluorobenzaldehyde (21 mL, 0.196 mol) and dimethyl methylsuccinate (87.61 g, 0.547 mol) was added drop-wise to the mechanically stirred solution. Drop-wise addition occurred slowly over 1.5 hours such that the reaction temperature did not exceed 35° C. and evolution of hydrogen gas occurred at a steady, moderate rate. After the drop-wise addition was complete, the reaction mixture was stirred for 3 hours. The reaction mixture was cooled in an ice-water bath. Concentrated HCl (100 mL) was added slowly drop-wise at a rate such that the reaction temperature did not exceed 20° C. Water (100 mL) was added, and the biphasic mixture was poured into a separatory funnel. The organic layer was separated, then extracted twice with 1 M aqueous potassium carbonate. The combined aqueous extracts were carefully acidified to pH 2 with concentrated HCl. The resultant cloudy suspension was extracted three times with 500 mL portions of diethyl ether. The combined organic extracts were dried over Na2SO4, filtered, and evaporated to yield 2-(4-fluoro-benzylidene)-3-methyl-succinic acid 1-methyl ester as an orange oil which contained excess dimethyl methylsuccinate as a major impurity and minor amounts of other impurities. This crude product was used in the next reaction without further purification.

reactant | sodium hydride | 0.466 mol, 18.63 g | [H-].[Na+]
reactant | methanol | 12.3 mmol, 0.5 mL | CO | CH4O
reactant | 4-fluorobenzaldehyde | 0.196 mol, 21 mL | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | dimethyl methylsuccinate | 0.547 mol, 87.61 g | CC(C(=O)OC)CC(=O)OC | C7H12O4
reactant | hydrogen | [H][H] | H2
reactant | HCl | 100 mL | Cl | ClH
solvent | Water | 100 mL | O | H2O
product | 2-(4-fluoro-benzylidene)-3-methyl-succinic acid 1-methyl ester | COC(C(C(C(=O)O)C)=CC1=CC=C(C=C1)F)=O | C13H13FO4
